US04522917
4,4-Dimethyl-1-phenyl-3-pyrazolidone (152 g) was dissolved in 600 ml of acetic acid. To the solution as prepared above, 97 g of an aqueous solution containing 37% of formaldehyde was dropped with stirring at room temperature. The resultant mixture was stirred for 2 hours. At the end of the time, the solvent was distilled away under reduced pressure. To the residue thus obtained, 100 ml of toluene was added, and water was separated at the toluene azeotrope under reduced pressure. A mixture of 900 ml of hexane and 700 ml of ethyl acetate was added to the residue as obtained above which was then dissolved therein by heating. The resultant solution was allowed to cool to room temperature. Crystals precipitated were collected by filtration to obtain 120 g of 4,4-dimethyl-2-hydroxymethyl-1-phenyl-3-pyrazolidone.

reactant | 4,4-Dimethyl-1-phenyl-3-pyrazolidone | 152 g | CC1(C(NN(C1)C1=CC=CC=C1)=O)C | C11H14N2O
reactant | formaldehyde | C=O | CH2O
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 4,4-dimethyl-2-hydroxymethyl-1-phenyl-3-pyrazolidone | 120 g | CC1(C(N(N(C1)C1=CC=CC=C1)CO)=O)C | C12H16N2O2
